US08486979B2
5-(benzo[d][1,3]dioxol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to method C using benzo[d][1,3]dioxole-5-carboxylic acid (Aldrich) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 6.22 (s, 2 H), 7.20 (d, J=8.1 Hz, 1 H), 7.61-7.69 (m, 2 H), 7.81 (dd, J=8.1, 1.7 Hz, 1 H), 8.42 (dt, J=8.2, 1.9, 1.7 Hz, 1 H), 8.81 (dd, J=4.7, 1.7 Hz, 1 H), 9.24 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 268 (M+H)+.

reactant | benzo[d][1,3]dioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(benzo[d][1,3]dioxol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | O1COC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C14H9N3O3
